US09212190B2
To a solution of 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylic acid (3.1 g, 10.75 mmol, 1.00 equiv) in tert-butanol (40 mL) was added DPPA (5.33 g, 19.37 mmol, 1.80 equiv) and TEA (3.28 g, 32.41 mmol, 3.02 equiv) at room temperature. The resulting solution was heated to reflux overnight and cooled down to room temperature. The reaction was quenched with water and extracted with 3×100 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/100) to give (2-[[(4-isocyanato-4-methylcyclohexyl)oxy]methoxy]ethyl)trimethylsilane (1.5 g, 49%) as a colorless oil.

reactant | 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylic acid | 10.75 mmol, 3.1 g, 1.00 equiv | CC1(CCC(CC1)OCOCC[Si](C)(C)C)C(=O)O | C14H28O4Si
reactant | DPPA | 19.37 mmol, 5.33 g, 1.80 equiv | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 40 mL | C(C)(C)(C)O | C4H10O
product | (2-[[(4-isocyanato-4-methylcyclohexyl)oxy]methoxy]ethyl)trimethylsilane | 1.5 g, 49% | N(=C=O)C1(CCC(CC1)OCOCC[Si](C)(C)C)C | C14H27NO3Si
